US09328124B2
2-[2-[(4aR,7aR)-2-Amino-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-pyrimidin-4-yl]propan-2-ol
N-[(4aR,7aR)-6-[5-fluoro-4-(1-hydroxy-1-methyl-ethyl)pyrimidin-2-yl]-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (330 mg, 0.668 mmol) is dissolved in methanol (8 mL) with stirring. Lithium hydroxide (42.51 mg, 1 mmol) is added and the reaction is heated at 60° C. for 5 hours 30 minutes. The reaction is cooled to room temperature and loaded onto a silica gel column. The column is eluted with a 0-5% gradient of 0.14 M ammonia/methanol in dichloromethane. The product obtained is further purified by preparative HPLC using a 10% B to 100% B gradient over 9 minutes at 60 mL/minute (column=Phenomenex Gemini NX C18, 30×100 mm, 5 μm. Mobile phase A: water with 10 mM ammonium bicarbonate, pH adjusted to pH 10 with ammonia. Mobile phase B: acetonitrile) to give the title compound (146 mg, 56%). ES/MS (m/e): 390 (M+1).

reactant | N-[(4aR,7aR)-6-[5-fluoro-4-(1-hydroxy-1-methyl-ethyl)pyrimidin-2-yl]-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.668 mmol, 330 mg | FC=1C(=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=NC=CN=C1)C(C)(C)O | C24H24FN7O2S
reactant | Lithium hydroxide | 1 mmol, 42.51 mg | [OH-].[Li+]
solvent | methanol | 8 mL | CO | CH4O
product | 2-[2-[(4aR,7aR)-2-Amino-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-pyrimidin-4-yl]propan-2-ol | 146 mg, 56% | NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)C2=NC=CN=C2 | C17H20FN7OS
